US04954511
A mixture of 10 g of sodium bicarbonate, 3.58 g of 1-(3-chloropropyl)-1,3-dihydro-2-oxo-2H-benzimidazole and 60 ml of dimethylformamide was treated with a solution of 4.0 g of 4-(2,3,4,5,6-pentafluorophenoxy)piperidine in 20 ml dimethylformamide and stirred at 75° C. for 1.5 hours. The reaction mixture was then cooled and filtered. The filtrate was poured into water and extracted with ethyl acetate. The organic layer was washed with water followed by a saturated sodium chloride solution, and dried over anhydrous magnesium sulfate. After filtering, evaporation of the volatiles afforded a residue which was purified by means of high pressure liquid chromatography (silica gel; elution with 5% methanol/dichloromethane). Recrystallization from isopropyl ether afforded 3.6 g (54%) of 1-[1-(1,3-dihydro-2-oxo-2H-benzimidazol-1-yl)propyl]-4-(2,3,4,5,6-pentafluorophenoxy)piperidine, m.p. 117°-120° C.

reactant | sodium bicarbonate | 10 g | C([O-])(O)=O.[Na+]
reactant | 1-(3-chloropropyl)-1,3-dihydro-2-oxo-2H-benzimidazole | 3.58 g | ClCCCN1C(NC2=C1C=CC=C2)=O | C10H11ClN2O
reactant | 4-(2,3,4,5,6-pentafluorophenoxy)piperidine | 4.0 g | FC1=C(OC2CCNCC2)C(=C(C(=C1F)F)F)F | C11H10F5NO
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | 1-[1-(1,3-dihydro-2-oxo-2H-benzimidazol-1-yl)propyl]-4-(2,3,4,5,6-pentafluorophenoxy)piperidine | 3.6 g, 54% | O=C1NC2=C(N1C(CC)N1CCC(CC1)OC1=C(C(=C(C(=C1F)F)F)F)F)C=CC=C2 | C21H20F5N3O2
